US04808595
Step B: Preparation of furo[2,3-b]pyridine-5-carboxylic acid
A suspension of furo[2,3-b]pyridine-2,5-dicarboxylic acid (5.35 g, 25.9 mmol) in quinoline (40 mL) containing copper dust (2.5 g) was heated under a nitrogen atmosphere at 200° C. for one hour. The cooled mixture was diluted with chloroform and filtered to remove suspended material. The product was extracted into sodium carbonate solution. This solution was carefully acidified with conc. hydrochloric acid and the precipitated product isolated by filtration. This material was dissolved in a large volume of diethyl ether/methanol, dried over anhydrous sodium sulfate and filtered through a pad of charcoal. The solvents were removed in vacuo and the residue triturated with diethyl ether to give pure product (2.68 g, 63% yield), mp: 274°-275° C.

reactant | furo[2,3-b]pyridine-2,5-dicarboxylic acid | 25.9 mmol, 5.35 g | O1C(=CC=2C1=NC=C(C2)C(=O)O)C(=O)O | C9H5NO5
solvent | quinoline | 40 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether methanol | C(C)OCC.CO
catalyst | copper | 2.5 g | [Cu] | Cu
product | furo[2,3-b]pyridine-5-carboxylic acid | 2.68 g, 63% yield | O1C=CC=2C1=NC=C(C2)C(=O)O | C8H5NO3
